USRE029153
Employing the procedure of Example II but replacing 4-chlorophenacyl bromide with a substantially equimolecular amount of 4-cyanophenacyl chloride and replacing 4-cyanopyridine with a substantially equimolecular amount of 4-chloropyridine there is obtained N-(4-cyanophenacyl) 4-chloropyridinium chloride, a solid soluble in water.

reactant | 4-chlorophenacyl bromide | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
reactant | 4-cyanophenacyl chloride | C(#N)C1=CC=C(C(CCl)=O)C=C1 | C9H6ClNO
reactant | 4-cyanopyridine | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | 4-chloropyridine | ClC1=CC=NC=C1 | C5H4ClN
product | N-(4-cyanophenacyl) 4-chloropyridinium chloride | [Cl-].C(#N)C1=CC=C(C(C[N+]2=CC=C(C=C2)Cl)=O)C=C1 | InChI=1S/C14H10ClN2O.ClH/c15-13-5-7-17(8-6-13)10-14(18)12-3-1-11(9-16)2-4-12;/h1-8H,10H2;1H/q+1;/p-1
